US04444584
A solution of ethyl 2-[4-(6-chloro-2-quinolinyloxy)phenoxy]propionate (2.0 g) and potassium hydroxide (1.0 g) in methanol (20 ml) was warmed and stirred for 24 hours. The solution was poured into dilute hydrochloric acid (100 ml, 0.5 m) and extracted with ethyl acetate (2×50 ml). The ethyl acetate extracts were dried (MgSO4) and evaporated to give 2-[4-(6-chloro-2-quinolinyloxy)phenoxy]propionic acid as a brown solid, mp 130° C. Mass spectrum (m/e): 343 (patent ion, 80%); 270 (80%); 164 (70%); 162 (100%).

reactant | ethyl 2-[4-(6-chloro-2-quinolinyloxy)phenoxy]propionate | 2.0 g | ClC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18ClNO4
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-[4-(6-chloro-2-quinolinyloxy)phenoxy]propionic acid | ClC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1 | C18H14ClNO4
